US06090802
(1) tert-Butyl (3S)-3-[3-(4-nitrobenzyloxycarbonyl)guanidinopropanoylamino]-1-pyrrolidinecarboxylate
Under ice cooling, N,N-diisopropylethylamine (961 μl) and 3,5-dimethylpyrazole-1-carboxamidine nitrate (1.11 g) were added to a solution of tert-butyl (3S)-3-(3-aminopropanoylamino)-1-pyrrolidinecarboxylate (1.42 g) in anhydrous N,N'-dimethylformamide (10 ml) and the mixture was stirred overnight at room temperature. The reaction mixture was poured into ether (150 ml) to give an oily precipitate. The precipitate was dissolved in anhydrous dichloromethane:anhydrous tetrahydrofuran=5:2 (70 ml). To the resulting solution, a solution of N-(4-nitrobenzyloxycarbonyl)oxy-5-norbornene-2,3-dicarboxyimide (4.35 g) in anhydrous dichloromethane (35 ml) was added dropwise under ice cooling, followed by the addition of N,N-diisopropylamine (1.90 ml). The resulting mixture was stirred overnight. To the reaction mixture, ethyl acetate was added. The resulting mixture was washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was suspended in methanol (50 ml). To the suspension, a 1N aqueous sodium hydroxide solution (6 ml) was added under ice cooling, followed by stirring overnight. The reaction mixture was concentrated by evaporation under reduced pressure and the residue was dissolved in ethyl acetate. The resulting solution was washed with water and saturated saline, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was separated by chromatography through a silica gel column (ethyl acetate, ethyl acetate-methanol), whereby 955 mg of the title target compound were obtained.

reactant | N,N-diisopropylethylamine | 961 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3,5-dimethylpyrazole-1-carboxamidine nitrate | 1.11 g | [N+](=O)(O)[O-].CC1=NN(C(=C1)C)C(=N)N
reactant | tert-butyl (3S)-3-(3-aminopropanoylamino)-1-pyrrolidinecarboxylate | 1.42 g | NCCC(=O)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C12H23N3O3
reactant | N,N-diisopropylamine | 1.90 ml | C(C)(C)NC(C)C | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N'-dimethylformamide | 10 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | 150 ml | CCOCC | C4H10O
product | tert-Butyl (3S)-3-[3-(4-nitrobenzyloxycarbonyl)guanidinopropanoylamino]-1-pyrrolidinecarboxylate | [N+](=O)([O-])C1=CC=C(COC(=O)C(CC(=O)N[C@@H]2CN(CC2)C(=O)OC(C)(C)C)NC(=N)N)C=C1 | C21H30N6O7
